US07491725B2
To a cold stirring solution of 2-chloro-6-methylaniline (59.5 g 0.42 mol) and pyridine (68 ml, 0.63 mol) in THF (600 mL) was added 3-ethoxyacryloyl chloride (84.7 g, 0.63 mol) slowly keeping the temp at 0-5° C. The mixture was then warmed and stirred for 2 h. at 20° C. Hydrochloric acid (1N, 115 mL) was added at 0-10° C. The mixture was diluted with water (310 mL) and the resulting solution was concentrated under vacuum to a thick slurry. The slurry was diluted with toluene (275 mL) and stirred for 15 min. at 20-22° C. then 1 h. at 0° C. The solid was collected by vacuum filtration, washed with water (2×75 mL) and dried to give 74.1 g (73.6% yield) of (E)-N-(2-chloro-6-methylphenyl)-3-ethoxyacrylamide). 1H NMR (400 Hz, DMSO-d6) δ 1.26 (t, 3H, J=7 Hz), 2.15 (s, 3H), 3.94 (q, 2H, J=7 Hz), 5.58 (d, 1H, J=12.4 Hz), 7.10-7.27 (m, 2H, J=7.5 Hz), 7.27-7.37 (d, 1H, J=7.5 Hz), 7.45(d, 1H, J=12.4 Hz), 9.28 (s, 1H); 13C NMR (100 MHz, CDCl3) δ: 14.57, 18.96, 67.17, 97.99, 126.80, 127.44, 129.07, 131.32, 132.89, 138.25, 161.09, 165.36.

reactant | 2-chloro-6-methylaniline | 0.42 mol, 59.5 g | ClC1=C(N)C(=CC=C1)C | C7H8ClN
reactant | pyridine | 0.63 mol, 68 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-ethoxyacryloyl chloride | 0.63 mol, 84.7 g | C(C)OC=CC(=O)Cl | C5H7ClO2
reactant | Hydrochloric acid | 1N, 115 mL | Cl | ClH
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | water | 310 mL | O | H2O
product | (E)-N-(2-chloro-6-methylphenyl)-3-ethoxyacrylamide | 74.1 g, 73.6% yield | ClC1=C(C(=CC=C1)C)NC(\C=C\OCC)=O | C12H14ClNO2
